US09315491B2
[4-(5-Methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-carbamic acid phenyl ester
A mixture of 4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenylamine (1.50 g, 1.0 eq.) and sodium bicarbonate solution (6 ml) in ethyl acetate (6 ml) stirring 5 min. After dropping phenyl chloroformate (0.98 ml, 1.2 eq) for 4 hrs at room temperature. The resultant mixture extracted with EA and the combined organic layers were washed with brine and dried in vacuo to give a light brown solid (1.80 g, 40.5%) as the product.

reactant | 4-(5-methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenylamine | 1.50 g, 1.0 eq. | COC=1C(=NC(=NC1)C1=CC=C(C=C1)N)N1CCOCC1 | C15H18N4O2
reactant | sodium bicarbonate | 6 ml | C([O-])(O)=O.[Na+]
reactant | phenyl chloroformate | 0.98 ml, 1.2 eq | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
product | [4-(5-Methoxy-4-morpholin-4-yl-pyrimidin-2-yl)-phenyl]-carbamic acid phenyl ester | 1.80 g, 40.5% | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)C1=NC=C(C(=N1)N1CCOCC1)OC)=O | C22H22N4O4
